US08198279B2
Tert-butyl 4-hydroxyphenylcarbamate (3.63 g, 17.4 mmol) was dissolved in dry DMF (150 mL). Potassium tert-butoxide (2.62 g, 23.4 mmol) was added and the stirring was continued for 30 minutes at room temperature. 4-Chloro-3-nitropyridin-2-amine (3.0 g, 17.3 mmol) was added as a solid in one portion and the reaction mixture was subsequently heated at 85° C. for 4 hours. The reaction mixture was cooled, diluted with ethyl acetate (800 ml) and washed with water (1×800 ml) and brine (2×800 ml). The organic layer was dried with magnesium sulphate and evaporated. The crude was chromatographed over silica (eluant ethyl acetate:cyclohexane 1:2) to yield 4.0 g (63% yield) of tert-butyl 4-(2-amino-3-nitropyridin-4-yloxy)phenylcarbamate.

reactant | Tert-butyl 4-hydroxyphenylcarbamate | 17.4 mmol, 3.63 g | OC1=CC=C(C=C1)NC(OC(C)(C)C)=O | C11H15NO3
reactant | Potassium tert-butoxide | 23.4 mmol, 2.62 g | CC(C)([O-])C.[K+]
reactant | 4-Chloro-3-nitropyridin-2-amine | 17.3 mmol, 3.0 g | ClC1=C(C(=NC=C1)N)[N+](=O)[O-] | C5H4ClN3O2
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 800 ml | C(C)(=O)OCC | C4H8O2
product | tert-butyl 4-(2-amino-3-nitropyridin-4-yloxy)phenylcarbamate | 4.0 g, 63% yield | NC1=NC=CC(=C1[N+](=O)[O-])OC1=CC=C(C=C1)NC(OC(C)(C)C)=O | C16H18N4O5
